* C:\Users\jpa55\Desktop\spice\SARLogic.asc
A1 TIHI 0 CLK 0 N007 N014 N021 0 DFLOP
A2 N021 0 CLK 0 N028 COMP_EN N022 0 DFLOP
A3 N022 0 CLK 0 N007 N015 N023 0 DFLOP
A4 N023 0 CLK 0 N007 N016 N024 0 DFLOP
A5 N024 0 CLK 0 N007 N017 N025 0 DFLOP
A6 N025 0 CLK 0 N007 N018 N026 0 DFLOP
A7 N026 0 CLK 0 N007 N019 N027 0 DFLOP
A8 N027 0 CLK 0 N007 N020 N028 0 DFLOP
A9 N028 0 N029 0 0 0 N007 0 DFLOP
A10 0 TIHI 0 N014 0 0 Sample 0 AND
A19 COMP_IN 0 N008 0 Sample 0 N001 0 DFLOP
A20 COMP_IN 0 N009 0 Sample 0 N002 0 DFLOP
A21 COMP_IN 0 N010 0 Sample 0 N003 0 DFLOP
A22 COMP_IN 0 N011 0 Sample 0 N004 0 DFLOP
A23 COMP_IN 0 N012 0 Sample 0 N005 0 DFLOP
A18 COMP_IN 0 N013 0 Sample 0 N006 0 DFLOP
A24 N001 0 N007 0 0 0 Q05 0 DFLOP
A25 N002 0 N007 0 0 0 Q04 0 DFLOP
A26 N003 0 N007 0 0 0 Q03 0 DFLOP
A27 N004 0 N007 0 0 0 Q02 0 DFLOP
A28 N005 0 N007 0 0 0 Q01 0 DFLOP
A29 N006 0 N007 0 0 0 Q00 0 DFLOP
A30 COMP_IN D6 N001 0 0 SW5B SW5 0 OR
A11 0 N021 0 COMP_EN 0 0 NOV 0 AND
A12 0 N022 0 N015 0 N008 D6 0 AND
A13 0 N023 0 N016 0 N009 D5 0 AND
A14 0 N024 0 N017 0 N010 D4 0 AND
A15 0 N025 0 N018 0 N011 D3 0 AND
A16 0 N026 0 N019 0 N012 D2 0 AND
A17 0 N027 0 N020 0 N013 D1 0 AND
A31 COMP_IN D5 N002 0 0 SW4B SW4 0 OR
A32 COMP_IN D4 N003 0 0 SW3B SW3 0 OR
A33 COMP_IN D3 N004 0 0 SW2B SW2 0 OR
A34 COMP_IN D2 N005 0 0 SW1B SW1 0 OR
A35 COMP_IN D1 N006 0 0 SW0B SW0 0 OR
V1 TIHI 0 1
A36 CLK 0 0 0 0 N029 0 0 BUF
.backanno
.end
