* C:\Users\circuit\spice\my_cmos_or.asc
M1 Q_BAR B VSS VSS NMOS l=0.18u w=1.8u m=1
M2 Q_BAR A VSS VSS NMOS l=0.18u w=1.8u m=1
M3 Q_BAR B N001 VDD PMOS l=0.18u w=1.8u m=1
M4 N001 A VDD VDD PMOS l=0.18u w=1.8u m=1
M5 Q Q_BAR VSS VSS NMOS l=0.18u w=1.8u m=1
M6 Q Q_BAR VDD VDD PMOS l=0.18u w=1.8u m=1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
