* C:\Users\circuit\spice\my_sr_latch.asc
XX1 S Q VDD 0 NC_01 Q_BAR my_cmos_or
XX2 Q_BAR R VDD 0 NC_02 Q my_cmos_or

* block symbol definitions
.subckt my_cmos_or A B VDD VSS Q Q_BAR
M1 Q_BAR B VSS VSS CMOSN l=0.18u w=1.8u m=1
M2 Q_BAR A VSS VSS CMOSN l=0.18u w=1.8u m=1
M3 Q_BAR B N001 VDD CMOSP l=0.18u w=1.8u m=1
M4 N001 A VDD VDD CMOSP l=0.18u w=1.8u m=1
M5 Q Q_BAR VSS VSS CMOSN l=0.18u w=1.8u m=1
M6 Q Q_BAR VDD VDD CMOSP l=0.18u w=1.8u m=1
.ends my_cmos_or

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
