
.INCLUDE my_comp.net

V1 N005 0 PULSE(0 1.8 1n 60p 60p 5n 10n)
VIN1 N002 N004 10m
V2 N004 0 0.9
V3 N001 0 1.8
E1 N003 N004 N002 N004 -1
C1 VOUTP 0 10f
C2 VOUTN 0 10f
XX1 N005 N001 N003 N002 0 VOUTN VOUTP my_comparator

*.step dec param VIN 0.1m 10m
.tran 10p 40n
.MEAS TRAN tl when V(VOUTN) = '1.72'
.print V(VOUTN) V(VOUTP)

.end
