* C:\Users\circuit\spice\transmisson_gate.asc
M1 out clkb in vdd CMOSP l={L} w={W1} m={M1}
M2 out clk in 0 CMOSN l={L} w={W2} m={M2}
V1 in 0 PULSE(0 {Vhigh} 0.222u 30p 30p 0.555u 1.111u)
V2 clk 0 PULSE(0 {Vhigh} 0 30p 30p 0.555u 1.111u)
V3 clkb 0 PULSE(0 {Vhigh} 0.555u 30p 30p 0.555u 1.111u)
V4 vdd 0 1.8
C1 out 0 500f
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.include "tsmc018.mdl"
.param L = 0.18u
.param W1 = 1.8u
.param M1 = 1
.param W2 = 1.8u
.param M2 = 1
.param Vhigh = 1
.tran 13u
.backanno
.end
