
.SUBCKT my_comparator CLK VDD VINN VINP VSS VOUTN VOUTP

M2 N047 N054 N057 N052 CMOSN l=0.18u w=1.8u m=1
M3 N061 N072 N077 N066 CMOSN l=0.18u w=1.8u m=1
M4 N023 N013 N007 N015 CMOSP l=0.18u w=1.8u m=1
M5 N024 N014 N008 N016 CMOSP l=0.18u w=1.8u m=1
M1 N046 N053 N055 N050 CMOSN l=0.18u w=1.8u m=1
M6 N062 N073 N078 N068 CMOSN l=0.18u w=1.8u m=1
M7 N063 N074 N079 N069 CMOSN l=0.18u w=1.8u m=1
M8 N019 N034 N038 N027 CMOSN l=0.18u w=1.8u m=1
M9 N040 N031 N028 N025 CMOSP l=0.18u w=1.8u m=1
M10 N017 N004 N001 N009 CMOSP l=0.18u w=1.8u m=1
M11 N065 N076 N081 N071 CMOSN l=0.18u w=1.8u m=1
M12 N064 N075 N080 N070 CMOSN l=0.18u w=1.8u m=1
M13 N022 N035 N039 N030 CMOSN l=0.18u w=1.8u m=1
M14 N041 N033 N029 N026 CMOSP l=0.18u w=1.8u m=1
M15 N018 N005 N002 N012 CMOSP l=0.18u w=1.8u m=1
XX1 VDD N007 para_register
XX2 VDD N015 para_register
XX3 VDD N016 para_register
XX4 VDD N008 para_register
XX5 N013 CLK para_register
XX6 CLK N014 para_register
XX7 N036 N023 para_register
XX8 N042 N024 para_register
XX9 N046 N036 para_register
XX10 N047 N042 para_register
XX11 VINP N053 para_register
XX12 N050 N051 para_register
XX13 N051 N052 para_register
XX14 N054 VINN para_register
XX15 N055 N056 para_register
XX16 N056 N057 para_register
XX17 N056 N061 para_register
XX18 N051 N067 para_register
XX19 N072 CLK para_register
XX20 N067 N066 para_register
XX21 N077 VSS para_register
XX22 N067 VSS para_register
XX23 N036 N037 para_register
XX24 N042 N043 para_register
XX25 VDD N001 para_register
XX26 VDD N010 para_register
XX27 VDD N011 para_register
XX28 VDD N002 para_register
XX29 N003 N004 para_register
XX30 N009 N010 para_register
XX31 N017 N020 para_register
XX32 N010 N025 para_register
XX33 N020 N019 para_register
XX34 N020 N028 para_register
XX35 N003 N034 para_register
XX36 N027 VSS para_register
XX37 N038 VSS para_register
XX38 N031 N032 para_register
XX39 N073 N037 para_register
XX40 N044 N040 para_register
XX41 N048 N044 para_register
XX42 N059 N048 para_register
XX43 N062 N059 para_register
XX44 N063 N059 para_register
XX45 VSS N078 para_register
XX46 VSS N068 para_register
XX47 VSS N069 para_register
XX48 VSS N079 para_register
XX49 N074 N032 para_register
XX50 N044 N045 para_register
XX51 N032 N058 para_register
XX52 VOUTP N048 para_register
XX53 N011 N012 para_register
XX54 N005 N006 para_register
XX55 N011 N026 para_register
XX56 N021 N022 para_register
XX57 VSS N030 para_register
XX58 VSS N039 para_register
XX59 N035 N006 para_register
XX60 N045 N033 para_register
XX61 N049 N041 para_register
XX62 N043 N006 para_register
XX63 N075 N045 para_register
XX64 N049 VOUTN para_register
XX65 N049 N058 para_register
XX66 N058 N060 para_register
XX67 N043 N076 para_register
XX68 N060 N064 para_register
XX69 N060 N065 para_register
XX70 N080 VSS para_register
XX71 N070 VSS para_register
XX72 N071 VSS para_register
XX73 N081 VSS para_register
XX74 N003 N037 para_register
XX75 N018 N021 para_register
XX76 N021 N029 para_register

* block symbol definitions
.subckt para_register in out
R1 out in 0.00001
.ends para_register

.model NMOS NMOS
.model PMOS PMOS

.include tsmc018.mdl

.ends my_comparator
